datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[S:6]([H:7])[H:8]>>[C:0]([C:1]([H:4])([H:5])[S:6][H:8])([H:2])([H:3])[H:7],186.188
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11])[H:9]>>[C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16].[O:0]([O:1][C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9],117.9888
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]=[C:10]([C:11]([S:12][H:15])[H:14])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[S:9])[H:13])([S:12][H:15])[H:14],89.5376
[C:0](=[S:1])([H:2])[H:3].[O:4]([H:5])[H:6]>>[C:0]([S:1][H:5])([H:2])([H:3])[O:4][H:6],101.797
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])([H:6])[H:7],33.9741
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[C:24]([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:21][C:24]([H:25])([H:26])[H:27],29.928152
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[H:32]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[H:32])([H:16])([H:17])[H:18],18.9117
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8][C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8](=[C:7]([H:11])[H:12])[C:9](=[S:10])[H:13],66.944
[C:0]([S:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([H:5])([H:6])[H:7].[S:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:15],15.8992
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:13])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[H:14])([H:10])([H:11])[H:12],69.8728
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([C:14](=[S:15])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14](=[S:15])[H:20])[H:19],29.288
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:10])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:13])([H:11])[H:12],57.7392
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([O:9])([H:10])([H:11])[H:12]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:9][C:8]([H:10])([H:11])[H:12],27.020272
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15](=[S:16])[H:17]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:8])[H:9].[H:7][C:15](=[S:16])[H:17],56.484
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([C:6](=[C:7]([H:21])[H:22])[H:20])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],168.28
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:21])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:22])([H:18])([H:19])[H:20],42.6768
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([S:11][H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([S:11][H:14])([H:12])[H:13],56.484
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])=[S:12],75.312
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]12[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]2[H:18]>>[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]1[C:6](=[C:7]([C:8](=[C:9][H:18])[H:17])[H:16])[H:15],107.1104
[Cl:0].[H:1][H:2]>>[Cl:0][H:2].[H:1],13.9849
